datasets/10k__Tet_Int.csv
SMILES Labelled
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])[H])CC)CC)CCCCCC>>CCCCCCN([C:20]1(OC(C(C([O:21]1)[H])CC)CC)[O-:10])CCCCCC 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21][H])([NH]CC)[NH][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].[H][NH+:21]=[C:20]([NH]CC)[NH][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(CC)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[S][CH](C)C(C)[CH]([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C)[CH](C)C([H])[S]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O+:10](C([H])C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)[O][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])C1=CC=CC=C1)C>>CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)C.[O-:21][H] 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1CC)[H])CCCCCC.[O-:21]C1=CC=CC=C1>>CC1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)[H])CCCCCC 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C([H])[CH]([H])[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](CC)[CH]([H])C([H])[S]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"[H][S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]CC)[O][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]CC)[O][H] 10=20;20,21=21"
"[H][S+:10](C(C)C(C)C(C)[S]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][S:10]C(C)C(C)C(C)[S][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
"CC1C(O[C:20](N1CC)([O-:10])[O:21][H])C>>CC1C(O[C:20](=[O:10])N1CC)C.[O-:21][H] 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[NH]C(C7=CC=CC=C7)C(C)[O]1 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"CCC1C(C(O[C:20](N1CC)([O-:10])[O:21][H])CC)C>>CCC1C(C(O[C:20](=[O:10])N1CC)CC)C.[O-:21][H] 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(C)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(C)C(C8=CC=CC=C8)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C([H])[O][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)C)[H]>>CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)[H].[O-:21]C 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1 10=20;20,21=21"
"[NH:10](C)C([H])C([H])/C([H])=C([H])\[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])=C([H])C([H])C([H])[NH+:10]1(C) 10=20;20,21=21"
"[O-:21][C:20]1(OC)[NH+:10]([H])C(C)C([H])C1O>>[NH:10]([H])C(C)C([H])C([C:20](OC)=[O:21])O 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C(C)[CH](C)[O]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH](C)[CH]([H])C([H])[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[S][CH](C)C([H])[CH]([H])[O]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](CC)[CH]([H])C(C)[O]2.CC[O:10][H] 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)CC)CC)CCCCCC)[O-:10])C>>CCN([C:20](=[O:10])OC(C(C([O-:21])CC)CC)CCCCCC)C 10=20;20,21=21"
"[H]C1C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)CCCCCC>>[H]C1C(O[C:20](=[O:10])N1[H])CCCCCC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"C9=CC=CC=C9[S:10][H].C[O+:21]=[C:20]([O]CC)[O]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21]C)([O]CC)[O]CC 10=20;20,21=21"
"[H][NH:10]C(C)C([H])C(C)[O][C:20]([NH]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C(C)[O]1)[C:20]1([NH:21][H])[NH]C 10=20;20,21=21"
"[H][O:10]C(CC)C(CC)[O][C:20]([O]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(CC)[O]1)[C:20]1([NH:21]CC)[O]CC 10=20;20,21=21"
"[OH:21][CH:20]2(OCC)C(C3=C(C([NH+:10]2([H]))[H])C=CC=C3)[H]>>[NH:10]([H])C(C1=C(C([CH:20](OCC)=[OH+:21])[H])C=CC=C1)[H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O]C(CC)C(CC)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[O]C(CC)C(CC)[O]1 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[O]C(C)C(C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(C)C(C)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"CN([C:20]([O-:10])(OC)[O:21]CCCCCC)CCCCCC>>CN([C:20](=[O:10])OC)CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"[H][S+:10](C(CC)C(C)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]C.[Cl-]>>[Cl-].[H][S:10]C(CC)C(C)[S][C:20]([O]C)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
